US08420817B2
D.1 Ethyl 5-[(3,5-dinitropyridin-2-yl)amino]pentanoate
A procedure similar to that of the method described in step C.1 is carried out, starting from 1.2 g (5.9 mmol) of 2-chloro-3,5-dinitropyridine, 1.03 g (7.07 mmol) of ethyl 5-aminovalerate and 0.9 g (8.84 mmol) of triethylamine in 20 ml of dioxane. This gives 1.4 g of expected product.

reactant | 2-chloro-3,5-dinitropyridine | 5.9 mmol, 1.2 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | ethyl 5-aminovalerate | 7.07 mmol, 1.03 g | NCCCCC(=O)OCC | C7H15NO2
reactant | triethylamine | 8.84 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Ethyl 5-[(3,5-dinitropyridin-2-yl)amino]pentanoate | 1.4 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])NCCCCC(=O)OCC | C12H16N4O6
